* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 0 N001 15
R2 N003 0 1.0
R3 N001 N002 1.8
R4 N001 N003 1.8k
R5 N002 0 150k
R1 N003 N002 25k

.end